US20010016207A1
D. [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid hydrochloride
[4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid methyl ester (17 mmol) is dissolved in 4N HCl (70 ml) and heated under reflux for 5 hours. After cooling the solvent is evaporated and the residue is suspended in ethanol and the solid filtered of, washed with diethylether and dried (vacuum). A powder with mp. >270° C., Rf=0.35 (CH2Cl2/MeOH=9:1) is obtained.

reactant | [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid methyl ester | 17 mmol | COC(C1=C(C=CC=C1)N1CCN(CC1)CCOC)=O | C15H22N2O3
reactant | HCl | 4N, 70 ml | Cl | ClH
product | [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid hydrochloride | Cl.COCCN1CCN(CC1)C1=C(C(=O)O)C=CC=C1 | InChI=1S/C14H20N2O3.ClH/c1-19-11-10-15-6-8-16(9-7-15)13-5-3-2-4-12(13)14(17)18;/h2-5H,6-11H2,1H3,(H,17,18);1H
